US08314147B2
Intermediate 33: 6-Chloro-2-fluoro-3-(methyloxy)benzoic Acid
n-Butyllithium (11.7 ml, 18.77 mmol) was added dropwise to a solution of 4-chloro-2-fluoroanisole (2.01 g, 12.52 mmol) in tetrahydrofuran (20 ml) at −78° C. and the reaction was stirred for 30 mins. Crushed solid carbon dioxide was added in one portion and the reaction was then allowed to warm to room temperature. The solvent was evaporated and the residue dissolved in water. Sodium hydroxide (2M to pH˜14) was added and the aqueous layer extracted with ethyl acetate. The aqueous layer was acidified with hydrochloric acid (5M, pH˜1) and the title compound was collected as a colourless solid (2.25 g, 88%). The compound was dried in vacuo.

reactant | n-Butyllithium | 18.77 mmol, 11.7 ml | C(CCC)[Li]
reactant | 4-chloro-2-fluoroanisole | 12.52 mmol, 2.01 g | ClC1=CC(=C(C=C1)OC)F | C7H6ClFO
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 6-Chloro-2-fluoro-3-(methyloxy)benzoic Acid | ClC1=CC=C(C(=C1C(=O)O)F)OC | C8H6ClFO3
